US05910498
1-(3-amino-4,6-difluorophenyl)-6,7-difluoro-5-hydroxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
Ethyl 5-benzyloxy-1-(3-ethoxycarbonylamino-4,6-difluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (500 mg) was added to 5 ml of 48% hydrobromic acid and 5 ml of acetic acid. The solution was heated at reflux overnight. The reaction solution was allowed to cool down and concentrated in vacua, and ethanol was added to the residue. The solid was collected by filtration and washed with diethyl ether to give 130 mg of the title compound.

reactant | Ethyl 5-benzyloxy-1-(3-ethoxycarbonylamino-4,6-difluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 500 mg | C(C1=CC=CC=C1)OC1=C2C(C(=CN(C2=CC(=C1F)F)C1=CC(=C(C=C1F)F)NC(=O)OCC)C(=O)OCC)=O | C28H22F4N2O6
reactant | hydrobromic acid | 5 ml | Br | BrH
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 1-(3-amino-4,6-difluorophenyl)-6,7-difluoro-5-hydroxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 130 mg | NC=1C=C(C(=CC1F)F)N1C=C(C(C2=C(C(=C(C=C12)F)F)O)=O)C(=O)O | C16H8F4N2O4
